US06667312B2
Using the general method of Example 1 Part D, N4-(4-chlorobutyl)quinoline-3,4-diamine (˜21.45 mmol) was cyclized using trimethyl orthobutyrate (3.8 g, 25.74 mmol) in the presence of pyridine hydrochloride (0.1 g). The crude product was purified by chromatography (silica gel eluting with 95/5 dichloromethane/methanol) to provide 3.6 g of 1-(4-chlorobutyl)-2-propyl-1H-imidazo[4,5-c]quinoline as a light green oil which slowly solidified.

reactant | N4-(4-chlorobutyl)quinoline-3,4-diamine | ˜21.45 mmol | ClCCCCNC1=C(C=NC2=CC=CC=C12)N | C13H16ClN3
reactant | trimethyl orthobutyrate | 25.74 mmol, 3.8 g | C(CCC)(OC)(OC)OC | C7H16O3
catalyst | pyridine hydrochloride | 0.1 g | Cl.N1=CC=CC=C1
product | 1-(4-chlorobutyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 3.6 g | ClCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C17H20ClN3
